US06288096B1
5.6 g (0.1 mole) potassium hydroxide in 10 ml water was added to a cooled solution of 13.8 g (0.1 mole) p-hydroxyphenethyl alcohol in 50 ml tetrahydrofuran. 10.2 g (0.1 mole) acetic anhydride was slowly added under stirring. After 2 hours diethyl ether and water were added. The phases were separated and the organic phase was dried, filtered and evaporated in vacuo. The product contained 15% starting material and was therefore redissolved in diethyl ether and washed twice with dilute sodium carbonate. Drying, filtration and evaporation of solvents in vacuo gave 12 g (yield 67%) of 2-(4-methylcarbonyloxyphenyl)-1-ethanol which was used without further purification.

reactant | potassium hydroxide | 0.1 mole, 5.6 g | [OH-].[K+]
reactant | p-hydroxyphenethyl alcohol | 0.1 mole, 13.8 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | acetic anhydride | 0.1 mole, 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-methylcarbonyloxyphenyl)-1-ethanol | 12 g, yield 67% | CC(=O)OC1=CC=C(C=C1)CCO | C10H12O3
